US04673746
A mixture of 20 g of ethyl{[7-chloro-3-(4-tolyl)-1,2-benzisoxazol-6-yl]oxy}acetate, Example 12, and 15 ml of 50% sodium hydroxide in 600 ml of ethyl alcohol is refluxed for 1 hour. Thereafter, the hot mixture is diluted with 500 ml of water and acidified with concentrated hydrochloric acid. The acidified suspension is, successively, stirred for 30 minutes and filtered and the filter cake is recrystallized from dimethylformamide to yield the product {[7-chloro-3-(4-tolyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid having a melting point of 257° to 260° C.

reactant | ethyl{[7-chloro-3-(4-tolyl)-1,2-benzisoxazol-6-yl]oxy}acetate | 20 g | C(C)OC(COC1=C(C2=C(C(=NO2)C2=CC=C(C=C2)C)C=C1)Cl)=O | C18H16ClNO4
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl alcohol | 600 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | {[7-chloro-3-(4-tolyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid | ClC1=C(C=CC=2C(=NOC21)C2=CC=C(C=C2)C)OCC(=O)O | C16H12ClNO4
